Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
methylphenidate
 
Attending: ___.
 
Chief Complaint:
bradycardia/ heart block
 
Major Surgical or Invasive Procedure:
Pacemaker placement on ___

 
History of Present Illness:
Patient is a ___ with history of hypercholerolemia, 
undifferentiated pleomorphic sarcoma of the right thigh s/p 50 
Gy and R0 resection in ___, peripheral polyneuropathy with 
bilateral foot drop presenting with 2:1 AV block with heart rate 
in the ___ identified in patient's outpatient Cardiology 
appointment now referred for EP evaluation and consideration of 
PPM placement. Patient was undergoing outpatient echo for 
evaluation of aortic root dilation and was noted to have ___ AV 
block on TTE on ___. He was referred to ___ cardiology 
for outpatient assessment.  He was seen by Dr. ___ in 
clinic today and was referred to the ED for expedited workup.

Patient reports He is not physically very active on a day to day 
basis. He uses a walker and walking is limited. During the 
summer months he will walk about ___ blocks but has not done 
much walking outside since last year due to weather. His walking 
is also limited by back pain. He has noted slightly more ___ 
edema and uses pressure stockings, present for the last year. He 
has been more fatigued in the last ___ months ago and taking 
more naps every day. He says he had some mild lightheadedness 
this morning but denies chest pain, shortness of breath, leg 
fevers, nausea, vomiting, diarrhea.

In the ED  
Initial vitals: T 97.8, HR 59, BP 189/72, RR 20, O2 100%
EKG: Rate 58, Prolonged PR interval, R BBB
Labs/studies notable for: Cr 1.1, Hb 12.5  
Patient was given:  No medications
Vitals on transfer: T 87.9, HR 32, BP 161/55, RR 16, O2 100 RA
 
On the floor patient is asymptomatic and feels at his baseline. 

 
Past Medical History:
1. CARDIAC RISK FACTORS  
Hypertension  
Dyslipidemia  
2. CARDIAC HISTORY  
CABG: None  
PERCUTANEOUS CORONARY INTERVENTIONS: None  
PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Hypercholesterolemia; Ptosis, both eyelids; Branch retinal vein 
occlusion of right eye; Sarcoma of thigh; Anemia; BPH (benign 
prostatic hypertrophy); Primary open angle glaucoma; Bilateral 
foot-drop; Spinal stenosis of lumbar region with radiculopathy; 
Peripheral polyneuropathy; and Aortic root dilation
 
Social History:
___
Family History:
Diabetes-Adult Onset           Mother                

Diabetes-Adult Onset           Brother   
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: 97.5PO 184 / 55 35 17 98 Ra  
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate.  
HEENT: bilateral eyelid droop
NECK: Supple with JVP not elevated
CARDIAC: S1 and s2 normal, bradycardic rate and rhythm, No 
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: Clear to auscultation bilaterally  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: 1+ pitting edema at level of ankles
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE EXAM:
===============
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
NECK: Supple with JVP not elevated
CARDIAC: S1 and s2 normal, bradycardic rate and rhythm, No
murmurs/rubs/gallops. No thrills, lifts.  PPM in place over 
chest wall, dressing clean/dry.
LUNGS: Clear to auscultation bilaterally  
ABDOMEN: Soft, NTND. No HSM or tenderness.  

 
Pertinent Results:
ADMISSION LABS:
================
___ 11:00AM BLOOD WBC-7.6 RBC-4.22* Hgb-12.5* Hct-39.3* 
MCV-93 MCH-29.6 MCHC-31.8* RDW-14.7 RDWSD-50.1* Plt ___
___ 11:00AM BLOOD Neuts-62.1 ___ Monos-5.0 Eos-2.6 
Baso-0.5 Im ___ AbsNeut-4.71 AbsLymp-2.23 AbsMono-0.38 
AbsEos-0.20 AbsBaso-0.04
___ 11:00AM BLOOD Glucose-104* UreaN-23* Creat-1.1 Na-143 
K-4.9 Cl-110* HCO3-24 AnGap-9*
___ 11:00AM BLOOD Calcium-9.3 Phos-3.2 Mg-2.1

DISCHARGE LABS:
================
___ 06:16AM BLOOD WBC-9.9 RBC-4.26* Hgb-12.7* Hct-39.2* 
MCV-92 MCH-29.8 MCHC-32.4 RDW-14.5 RDWSD-48.6* Plt ___
___ 06:16AM BLOOD Glucose-98 UreaN-19 Creat-1.1 Na-142 
K-4.4 Cl-108 HCO3-21* AnGap-13

CXR ___:
==========
In comparison with the study of ___, there has been 
placement of a dual channel pacer via a left subclavian approach 
with leads extending to the right atrium and right ventricle.  
No evidence of post procedure pneumothorax. 
Cardiomediastinal silhouette is stable without evidence of 
vascular congestion or pleural effusion. 

 
Brief Hospital Course:
___ year old man with a h/o right thigh undifferentiated 
pleomorphic sarcoma s/p resection and radiation therapy in ___, 
BPH, aortic dilatation, and hyperlipidemia who presented with 2 
months of fatigue and found to be in 2:1 heart block now s/p 
dual chamber MDT pacemaker.

#Symptomatic 2:1 AV block 
Patient noted to have 2:1 AV block on TTE on ___, referred from 
cardiology clinic for PPM placement. Patient seen by EP in the 
ED and was noted to have AV nodal (first degree AV delay) and 
His-Purkinje conduction disease (RBBB) likely age-related 
degenerative conduction disease. Underwent dual chamber MDT 
pacemaker placement on ___. He was given Cefazolin, and then 
transitioned to Keflex for a total of 72 hours of antibiotics. 
He will follow up with Dr. ___ in clinic in ___ weeks. 

#Hypertension
Patient with SBPs 180-220, not on home antihypertensives. 
Initiated on amlodipine 5mg. 

CHRONIC
=========
#HLD
Continue atorvastation 40mg 

#Acute closed angle glaucoma
Continue home eye drops

#BPH
 Continue home tamsulosin and finasteride 

#Aortic root dilation
Appears stable on TTE from ___

#Code status
Patient previously documented DNR/DNI. His code status was 
reversed for procedure and hospitalization.

# CODE: Full code 
# CONTACT: HCP:  wife- ___ ___

TRANSITIONAL ISSUES:
======================
- Patient had PPM placement on ___. He can follow up with Dr. 
___ in ___ weeks.
- Patient will complete 72 hours of Keflex to end on ___.
- Patient with SBPs to 220 during hospitalization. He was 
initiated on amlodipine 5mg. Please monitor BP and titrate 
antihypertensive regimen.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. FoLIC Acid 1 mg PO DAILY 
4. Tamsulosin 0.4 mg PO QHS 
5. Alendronate Sodium 70 mg PO Frequency is Unknown 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
7. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
8. Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID 
9. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Cephalexin 500 mg PO Q8H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*7 Capsule Refills:*0 
4.  Alendronate Sodium 70 mg PO QSUN  
5.  Atorvastatin 40 mg PO QPM  
6.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID  
7.  Dorzolamide 2% Ophth. Soln. 1 DROP BOTH EYES BID  
8.  Finasteride 5 mg PO DAILY  
9.  FoLIC Acid 1 mg PO DAILY  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES DAILY  
11.  Tamsulosin 0.4 mg PO QHS  
12.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 2:1 Atrioventricular block
Secondary: Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

Why you were here?
You came to the hospital because you had an abnormal heart 
rhythm.

What we did while you were here?
We placed a pacemaker to help regulate your heart rhythm.

What you should do when you go home?
-Please take all of your medications as prescribed. You will be 
taking an antibiotic through ___. 
-Please follow up with your primary care physician and Dr. ___ 
___ Cardiology in clinic. 
- Please do not drive until you are seen by Dr. ___ in the 
clinic.

It was a pleasure taking care of you.

Your ___ Team
 
Followup Instructions:
___